US06391904B1
Stage A: Ethyl O-[4-(Hydroxymethyl)phenyl]-N-[(phenylmethoxy)carbonyl]-homoserinate
The mixture constituted by 690 mg of 4-hydroxybenzenethanol, 1.72 g of ethyl 4-bromo-2-[[(phenylmethoxy)carbonyl]amino]butanoate and 1.63 g of Cs2CO3 in 100 ml of acetonitrile is heated under reflux or 45 minutes, the solid is filtered, washed with dichloromethane then the filtrate is evaporated under reduced pressure until 2.6 g of crude product is obtained which is purified by chromatography on a silica column (Kieselgel 60; 40-63 μm) eluting with a dichloromethane/methanol mixture 9/5. 1.58 g of expected product is obtained.

reactant | 4-hydroxybenzenethanol | 690 mg | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | ethyl 4-bromo-2-[[(phenylmethoxy)carbonyl]amino]butanoate | 1.72 g | BrCCC(C(=O)OCC)NC(=O)OCC1=CC=CC=C1 | C14H18BrNO4
reactant | Cs2CO3 | 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Ethyl O-[4-(Hydroxymethyl)phenyl]-N-[(phenylmethoxy)carbonyl]-homoserinate | 1.58 g | OCC1=CC=C(C=C1)OCC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OCC | C21H25NO6
